US07582657B2
(2E)-3-[6-(tert-Butyl)(3-pyridyl)]-N-[2-(hydroxymethyl)indol-5-yl]prop-2-enamide
Analogous to the procedure used to prepare Example 1, (2E)-3-[6-(tert-butyl)(3-pyridyl)]prop-2-enoic acid, Example 44(b), (41 mg, 0.20 mmol) and (5-aminoindol-2-yl)methan-1-ol, Example 74(b), (32 mg, 0.20 mmol) provided, after purification by silica gel chromatography (20:80 hexane:EtOAc), the title compound as a yellow amorphous solid. MS (ESI, pos. ion) m/z: 350 (M+1).

reactant | (2E)-3-[6-(tert-butyl)(3-pyridyl)]prop-2-enoic acid | C(C)(C)(C)C1=CC=C(C=N1)/C=C/C(=O)O | C12H15NO2
reactant | (5-aminoindol-2-yl)methan-1-ol | NC=1C=C2C=C(NC2=CC1)CO | C9H10N2O
product | (2E)-3-[6-(tert-Butyl)(3-pyridyl)]-N-[2-(hydroxymethyl)indol-5-yl]prop-2-enamide | C(C)(C)(C)C1=CC=C(C=N1)/C=C/C(=O)NC=1C=C2C=C(NC2=CC1)CO | C21H23N3O2
